US04076840
Triethylamine (3.1 g, 30.5 mmol) is added dropwise (30 min) at 0° to a solution of benzoyl chloride (1.5 g, 12.2 mmol) in tetrahydrofuran (25 ml) containing suspended 1-methoxycyclopropylammonium chloride (1.82 g, 13.0 mmol). The mixture is then stirred at room temperature for 30 min. The precipitate is filtered off and washed thoroughly with tetrahydrofuran. The filtrate is evaporated in vacuo yielding a crystalline residue. Recrystallisation from methanol gives pure N-(-methoxycyclopropyl)-benzamide, mp 190°-191° (1.2 g, 55%); NMR (60 MHz)=δCDCl 3=1.00-1.30 (m, 4H), 3.40 (s, 3H), 7.0 (br. s, 1H), 7.35-7.95 (m, 5H).

reactant | Triethylamine | 30.5 mmol, 3.1 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 12.2 mmol, 1.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-methoxycyclopropylammonium chloride | 13.0 mmol, 1.82 g | [Cl-].COC1(CC1)[NH3+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-(-methoxycyclopropyl)-benzamide | COC1(CC1)NC(C1=CC=CC=C1)=O | C11H13NO2
